*$
*PART NUMBER: NJM2903
*MANUFACTURER: New Japan Radio 
*BJT COMPARATOR
*All Rights Reserved Copyright (c) Bee Technologies Inc. 2005
.subckt njm2903 AOUTPUT A-INPUT A+INPUT GND 
+ B+INPUT B-INPUT BOUTPUT  V+
X_U1 A+INPUT A-INPUT V+ GND AOUTPUT njm2903_s
X_U2 B+INPUT B-INPUT V+ GND BOUTPUT njm2903_s
.ends njm2903
*$
.subckt njm2903_s In+ Ii- V+ V- O/P 
f1    9  V+ v1 1
iee   V+ 7 dc 100.0E-6
vi1   21 In+ dc 0.74506
vi2   22 Ii- dc 0.752
q1    9 21  7 qin1
q2    8 22  7 qin2
q3    9  8  V- qmo
q4    8  8  V- qmi
.model qin1 PNP(Is=800.0E-18 Bf=.210200E3)
.model qin2 PNP(Is=800.0E-18 Bf=0.19500E3)
.model qmi NPN(Is=800.0E-18 Bf=1002)
.model qmo NPN(Is=800.0E-18 Bf=1000 Cjc=1E-15 Tr=57.8E-8)
e1   10  V-  9  V-  1
re1  101 V- 35
v1   10 11 dc 428m
q5   O/P 11 101 qoc
.model qoc NPN(Is=800.0E-18 Bf=7.3E3 Cjc=1E-15 Tf=0.365E-8 Tr=38.50E-8)
dp   V- V+ dx
rp   V+ V- 71.53
.model dx  D(Is=800.0E-18)
.ends njm2903_s
*$
